US06350749B1
A solution of 5-(2-chloro-5-methylphenyl)cyclohexane-1,3-dione (3.0 g) and ammonium acetate (2.9 g) in ethanol (50 ml) was refluxed for 13 hours. Under reduced pressure, the solvent was evaporated, and precipitated crystals were washed with water and toluene, and dried to give 1-amino-5-(2-chloro-5-methylphenyl)cyclohexen-3-one (2.9 g).

reactant | 5-(2-chloro-5-methylphenyl)cyclohexane-1,3-dione | 3.0 g | ClC1=C(C=C(C=C1)C)C1CC(CC(C1)=O)=O | C13H13ClO2
reactant | ammonium acetate | 2.9 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-amino-5-(2-chloro-5-methylphenyl)cyclohexen-3-one | 2.9 g | NC1=CC(CC(C1)C1=C(C=CC(=C1)C)Cl)=O | C13H14ClNO
